US08563569B2
To a vial with 5-amino-1H-benzo[d]imidazol-2(3H)-one (298.3 mg, 2.0 mmol) and 2,4-dichloro-5-fluoropyrimidine (434.1 mg, 2.6 mmol), MeOH (8 mL) and H2O (2 mL) were added. The turbid solution was stirred at rt for 3 days. Precipitate from reaction mixture was collected by filtration, and washing with EtOAc (3 mL×2), and was further dried in vacuo. 5-(2-Chloro-5-fluoropyrimidin-4-ylamino)-1H-benzo[d]imidazol-2(3H)-one was obtained as an off-white solid: 390.3 mg (70% yield); 1H NMR (300 MHz, DMSO) δ 10.69 (s, 1H), 10.63 (s, 1H), 9.87 (s, 1H), 8.27 (d, J=3.6, 1H), 7.35 (d, J=1.9, 1H), 7.18 (dd, J=1.9, 8.3, 1H), 6.93 (d, J=8.3, 1H); LCMS (M+) m/z 279.80.

reactant | 5-amino-1H-benzo[d]imidazol-2(3H)-one | 2.0 mmol, 298.3 mg | NC1=CC2=C(NC(N2)=O)C=C1 | C7H7N3O
reactant | 2,4-dichloro-5-fluoropyrimidine | 2.6 mmol, 434.1 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | MeOH | 8 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | 5-(2-Chloro-5-fluoropyrimidin-4-ylamino)-1H-benzo[d]imidazol-2(3H)-one | 70% yield | ClC1=NC=C(C(=N1)NC1=CC2=C(NC(N2)=O)C=C1)F | C11H7ClFN5O
